US07160888B2
Synthesis of 6-Fluoro-4-methyl-2-[4-(4-naphthalen-1-yl-piperazin-1-yl)-butoxy]-8H-pyrido[2,3-d]pyrimidin-7-one
Following the same procedure as in Example H12 and starting from 6-fluoro-2-methanesulfonyl-4-methyl-8H-pyrido[2,3-d]pyrimidin-7-one (300 mg, 1.166 mmol, U.S. Pat. No. 6,498,163) and 4-(4-naphthalen-1-yl-piperazin-1-yl)-butan-1-ol (331 mg, 1.166 mmol), the title compound was made as a solid (323 mg, 0.684 mmol, 58.7%). MS: APCI: M+1: 462.1 (Exact Mass: 461.22).

reactant | 6-fluoro-2-methanesulfonyl-4-methyl-8H-pyrido[2,3-d]pyrimidin-7-one | FC1=CC2=C(N=C(N=C2C)S(=O)(=O)C)NC1=O | C9H8FN3O3S
reactant | 4-(4-naphthalen-1-yl-piperazin-1-yl)-butan-1-ol | 1.166 mmol, 331 mg | C1(=CC=CC2=CC=CC=C12)N1CCN(CC1)CCCCO | C18H24N2O
product | 6-Fluoro-4-methyl-2-[4-(4-naphthalen-1-yl-piperazin-1-yl)-butoxy]-8H-pyrido[2,3-d]pyrimidin-7-one | FC1=CC2=C(N=C(N=C2C)OCCCCN2CCN(CC2)C2=CC=CC3=CC=CC=C23)NC1=O | C26H28FN5O2
